US07396847B2
1-[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl]-4-methyl-1H-1,2,3-triazole
[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-yl]-methylamine (2.2 g, 8.4 mmol) and diisopropylethylamine (7.3 ml, 42 mmol) were added to anhydrous methanol (50 ml) followed by addition of N′-[2,2-dichloro-1-methylethylidene]-4-methylbenzenesulfonohydrazide (3.2 g, 10.9 mmol). The reaction was stirred at room temperature for four hours and then ethyl acetate was added. The precipitate was collected and washed with water (2×25 ml) to give the desired product (793 mg).

reactant | [3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-yl]-methylamine | 8.4 mmol, 2.2 g | BrC1=CC=C(S1)C1=NOC(C1)NC | C8H9BrN2OS
reactant | diisopropylethylamine | 42 mmol, 7.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanol | 50 ml | CO | CH4O
reactant | N′-[2,2-dichloro-1-methylethylidene]-4-methylbenzenesulfonohydrazide | 10.9 mmol, 3.2 g | ClC(C(C)=NNS(=O)(=O)C1=CC=C(C=C1)C)Cl | C10H12Cl2N2O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl]-4-methyl-1H-1,2,3-triazole | 793 mg | BrC1=CC=C(S1)C1=NOC(C1)CN1N=NC(=C1)C | C11H11BrN4OS
